US07071175B1
A solution of N-(5-bromopyridin-2-yl)-2,2-dimethyl-propionamide (3.582 g, 13.9 mmol) in diethyl ether (36 mL) was cooled to −78° C. under argon and n-butyllithium (1.6 M, 19 mL, 30.4 mmol) was added dropwise within 20 min. 5 min after complete addition the mixture was allowed to warm up to 0° C. N-Methoxy-N-methyl butyramide (3.65 g, 27.8 mmol) was added within less than 5 min and stirring was continued for 45 min. The clear solution was acidified with 2 N hydrochloric acid to pH 2. After vigorous stirring for 15 min the mixture was neutralised with sodium hydrogen carbonate and the layers were separated. The aqueous layer was extracted three times with diethyl ether. The combined organic layers were washed with brine, dried and concentrated under reduced pressure. The resulting oil was dried in oil pump vacuum to remove the excess reagent. After flash chromatography (dichloromethane/methanol 60:1) crude N-(5-butyryl-pyridin-2-yl)-2,2-dimethyl-propionamide (2.47 g, 71%) was obtained as a light orange oil which was not purified further.

reactant | N-(5-bromopyridin-2-yl)-2,2-dimethyl-propionamide | 13.9 mmol, 3.582 g | BrC=1C=CC(=NC1)NC(C(C)(C)C)=O | C10H13BrN2O
reactant | n-butyllithium | 30.4 mmol, 1.6 M, 19 mL | C(CCC)[Li]
reactant | N-Methoxy-N-methyl butyramide | 27.8 mmol, 3.65 g | CON(C(CCC)=O)C | C6H13NO2
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 36 mL | C(C)OCC | C4H10O
product | N-(5-butyryl-pyridin-2-yl)-2,2-dimethyl-propionamide | 2.47 g, 71% | C(CCC)(=O)C=1C=CC(=NC1)NC(C(C)(C)C)=O | C14H20N2O2
